US08754226B2
A solution of (S)-benzyl 4-(3-(2-fluoro-4-(methylsulfonyl)phenylamino)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (1.3 g, 27 mmol) in ethanol (20 mL) and concentrated HCl (300 μL) was hydrogenated at 40 PSI with 10% Degussa type Pd/C (650 mg) for 18 hours. The mixture was filtered through celite and the solids were washed with MeOH (200 mL) and water (200 mL). The methanol in the filtrate was removed in vacuo. The water layer was extracted with EtOAc (3×100 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated in vacuo to yield (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1-(piperidin-4-yl)pyrrolidin-2-one (600 mg, 1.7 mmol, 64%). Mass spectrum (apci) m/z=356.1 (M+H).

reactant | (S)-benzyl 4-(3-(2-fluoro-4-(methylsulfonyl)phenylamino)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 27 mmol, 1.3 g | FC1=C(C=CC(=C1)S(=O)(=O)C)N[C@@H]1C(N(CC1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O | C24H28FN3O5S
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | HCl | 300 μL | Cl | ClH
catalyst | Pd/C | 650 mg | [Pd] | Pd
product | (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1-(piperidin-4-yl)pyrrolidin-2-one | 1.7 mmol, 600 mg, 64% | FC1=C(C=CC(=C1)S(=O)(=O)C)N[C@@H]1C(N(CC1)C1CCNCC1)=O | C16H22FN3O3S
